datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[S:13])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:14])([H:15])[H:16])([S:13])[H:17])[H:6])([H:4])[H:5],24.309
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9](=[S:10])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:11])[H:5].[C:8]([C:9](=[S:10])[H:14])([H:12])[H:13],84.0984
[H:4].[N:0](=[N:1][H:3])[H:2]>>[H:2][H:4].[N:0]=[N:1][H:3],6.61072
[C:0]([C:1]1[C:2]([H:7])=[C:3]1[H:8])([H:4])([H:5])[H:6]>>[C:0](=[C:1]1[C:2]([H:7])=[C:3]1[H:8])([H:5])[H:6].[H:4],158.611256
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:3])[H:4],198.74
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][O:10][H:11]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:9][O:10][H:11],40.9195
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[O:33][H:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:30][O:33][H:34],2.204968
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:6],41.045
[C:0]([S:1][H:4])([H:2])[H:3].[S:5][S:6][H:7]>>[C:0](=[S:1])([H:2])[H:3].[H:4][S:5][S:6][H:7],2.13384
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:7])([H:5])[H:6],53.5552
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:10],42.7605
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([H:18])([H:19])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],162.088
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][O:18],209.86944
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])([O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])[H:11])([H:9])[H:10].[O:7][O:8][H:19],65.2704
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:15][C:14]([H:16])([H:17])[H:18],29.288
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]1([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]([H:24])([H:25])[C:9]1([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])[H:13],61.4211
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[c:14]1[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]1[H:24])[H:7])[H:6],-6.02496
[N:0]=[N:1][H:2].[N:3]=[O:4]>>[H:2][N:3]=[O:4].[N:0]#[N:1],-4.97896
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:14])([H:15])[H:16])([c:8]1[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]1[H:22])[H:17],162.699
